US06162818
A solution of 1-t-butoxycarbonyl-2,3-dihydro-6-(2-imidazolinylamino)-7-methylindole acetic acid salt (0.69 g, 1.85 mmol) in methylene chloride (7 mL) is treated dropwise with a 30% solution of hydrogen bromide in acetic acid (1.0 g, 3.7 mmol). A precipitate forms which dissolves upon addition of 2 mL of methanol. The reaction is stirred for 2.5 hours then concentrated under a stream of nitrogen. The material is diluted with water, and chloroform and brought to pH=14 with 1 M aqueous sodium hydroxide solution. The chloroform layer is collected and the aqueous solution extracted two additional times with chloroform. The combined organic extracts are dried over potassium carbonate, filtered and the filtrate evaporated on a rotary evaporator to afford 2,3-dihydro-6-(2-imidazolinylamino)-7-methylindole.

reactant | 1-t-butoxycarbonyl-2,3-dihydro-6-(2-imidazolinylamino)-7-methylindole acetic acid salt | 1.85 mmol, 0.69 g | C(C)(=O)O.C(C)(C)(C)OC(=O)N1CCC2=CC=C(C(=C12)C)NN1C=NCC1
reactant | hydrogen bromide | Br | BrH
reactant | acetic acid | 3.7 mmol, 1.0 g | C(C)(=O)O | C2H4O2
reactant | methanol | 2 mL | CO | CH4O
solvent | methylene chloride | 7 mL | C(Cl)Cl | CH2Cl2
product | 2,3-dihydro-6-(2-imidazolinylamino)-7-methylindole | N1(C=NCC1)NC1=CC=C2CCNC2=C1C | C12H16N4
